US06987194B2
Step E Synthesis of 3-[4-(3,3-dichloroprop-2-enyloxy)-2,6-dichlorophenoxy]propylamine hydrochloride as an Intermediate
A stirred solution of 2.6 grams (0.0058 mole) of N-{3-[4-(3,3-dichloroprop-2-enyloxy)-2,6-dichlorophenoxy]propyl}(tert-butoxy)carboxamide in 10 mL of anhydrous diethyl ether was cooled to 0° C. and a 2N solution of hydrogen chloride in diethyl ether was added via a syringe. Upon completion of addition the reaction mixture was allowed to warm to ambient temperature where it stirred during an 18-hour period. A resultant solid precipitate was collected by filtration, yielding when dried, 1.25 grams of the subject compound. The filtrate was taken up in hexanes and allowed to stand during an 18-hour period, during which time a second crop of the subject compound precipitated from the filtrate. The precipitate was collected by filtration and dried, yielding an additional 0.83 gram of the subject compound.

reactant | N-{3-[4-(3,3-dichloroprop-2-enyloxy)-2,6-dichlorophenoxy]propyl}(tert-butoxy)carboxamide | 0.0058 mole, 2.6 grams | ClC(=CCOC1=CC(=C(OCCCNC(=O)OC(C)(C)C)C(=C1)Cl)Cl)Cl | C17H21Cl4NO4
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 3-[4-(3,3-dichloroprop-2-enyloxy)-2,6-dichlorophenoxy]propylamine hydrochloride | 0.83 gram | Cl.ClC(=CCOC1=CC(=C(OCCCN)C(=C1)Cl)Cl)Cl | InChI=1S/C12H13Cl4NO2.ClH/c13-9-6-8(18-5-2-11(15)16)7-10(14)12(9)19-4-1-3-17;/h2,6-7H,1,3-5,17H2;1H
